US06410664B1
p-Trifluoromethylsalicylaldehyde
To a solution of p-trifluoromethylphenol (7.1 g, 44 mmol) and 2,6-lutidine (1.9 g, 17.6 mmol) in toluene (80 mL) was slowly added SnCl4 (1.2 g, 4.4 mmol). The solution was stirred at room temperature for 20 minutes. Paraformaldehyde was added (3.2 g, 106 mmol) and the reaction was stirred at 110° C. for 12 hours. After cooling to room temperature, the reaction mixture was poured into water (250 mL), and adjusted to pH 1 with concentrated HCl. The mixture was extracted with diethyl ether (500 mL), and the organic layer was washed twice with saturated brine and dried over Na2SO4. The solvent was removed by rotary evaporation to leave a yellow oil. The oil was loaded onto a silica gel column and eluted with 6:1 hexane:ethyl acetate. The yield of product was 1.0 g (12%). 1H NMR(CDCl3): δ7.21-7.91 (m, 12H), 9.91 (s, 1H), 11.32 (s, 1H).

reactant | p-trifluoromethylphenol | 44 mmol, 7.1 g | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | 2,6-lutidine | 17.6 mmol, 1.9 g | N1=C(C=CC=C1C)C | C7H9N
reactant | SnCl4 | 4.4 mmol, 1.2 g | Cl[Sn](Cl)(Cl)Cl
reactant | Paraformaldehyde | C=O | CH2O
reactant | HCl | Cl | ClH
reactant | water | 250 mL | O | H2O
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | p-Trifluoromethylsalicylaldehyde | FC(C=1C=C(C(C=O)=CC1)O)(F)F | C8H5F3O2
